US06774136B2
6-Bromo-1-[(2-methoxyphenyl)-morpholin-4-yl-methyl]-naphthalen-2-ol
The preparation was carried out in accordance with general synthesis instructions 4 from 4-(2-methoxy-benzylidene)-morpholin-4-ium chloride and 6-bromo-2-naphthol.

reactant | 4-(2-methoxy-benzylidene)-morpholin-4-ium chloride | [Cl-].COC1=C(C=[N+]2CCOCC2)C=CC=C1
reactant | 6-bromo-2-naphthol | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
product | 6-Bromo-1-[(2-methoxyphenyl)-morpholin-4-yl-methyl]-naphthalen-2-ol | BrC=1C=C2C=CC(=C(C2=CC1)C(N1CCOCC1)C1=C(C=CC=C1)OC)O | C22H22BrNO3
